US07919509B2
b) Preparation of 7-(4-bromobutoxy)-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one
An N,N-dimethylformamide (5 mL) solution of 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one (500 mg, 1.84 mmol), 1,4-dibromobutane (2.19 mL, 18.36 mmol), and potassium carbonate (375 mg, 2.76 mmol) was stirred overnight at room temperature. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated under vacuum. The obtained residue was purified using silica-gel chromatography (hexane:ethyl acetate=10:1), and the title compound (0.79 g) was obtained as yellow oil.

reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 7-hydroxy-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one | 1.84 mmol, 500 mg | OC1=CC=C2C(=CC(OC2=C1CCC)=O)C(F)(F)F | C13H11F3O3
reactant | 1,4-dibromobutane | 18.36 mmol, 2.19 mL | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 2.76 mmol, 375 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 7-(4-bromobutoxy)-8-propyl-4-(trifluoromethyl)-2H-chromen-2-one | 0.79 g | BrCCCCOC1=CC=C2C(=CC(OC2=C1CCC)=O)C(F)(F)F | C17H18BrF3O3
